US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-hydroxybenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 4-hydroxybenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.91-1.98 (m, 5H), 2.14 (s, 1H), 2.27-2.34 (m, 2H), 2.36-2.43 (m, 1H), 3.50 (s, 2H), 3.60 (s, 3H), 4.36 (s, 1H), 6.70-6.98 (m, 2H), 7.56-7.82 (m, 2H); MS (APCI/NH3) m/z 273 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-4-hydroxybenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=CC=C(C=C2)O)=O | C16H20N2O2
